US08217064B2
2-(4-Benzo[1,2,5]oxadiazol-5-yl-3-chloro-5-cyclopropylmethoxy-phenyl)-4-methyl-pentanoic acid cyclopropylmethyl ester (0.11 g, 0.23 mmol) was dissolved in a mixture of EtOH/H2O (9 mL /1 mL) and KOH (0.1 g, 1.76 mmol) was added. The reaction mixture was refluxed for 2 h and after cooling the solvent was evaporated. Then, 6 N HCl was added to adjust the pH to 5, and the reaction mixture was extracted with EtOAc (3×10 mL). The combined organic phases were dried over MgSO4 and evaporated under reduced pressure to give 2-(4-benzo[1,2,5]oxadiazol-5-yl-3-chloro-5-cyclopropylmethoxy-phenyl)-4-methyl-pentanoic acid as a yellow oil (0.068 g, 70%). 1H NMR (300 MHz, CDCl3/TMS): δ 8.40 (br s, 1H), 7.70 (d, J=9.3 Hz, 1H), 7.62 (s, 1H), 7.19 (d, J=9.3 Hz, 1H), 6.97 (s, 1H), 6.73 (s, 1H), 3.67 (d, J=6.6 Hz, 2H), 3.52 (t, J=7.7 Hz, 1H), 1.90-1.81 (m, 1H), 1.62-1.53 (m, 1H), 1.50-1.39 (m, 1H), 0.98-0.68 (m, 1H), 0.81 (d, J=6.1 Hz, 6H), 0.37-0.31 (m, 2H), 0.15-0.10 (m, 2H). 13C NMR (75 MHz, CDCl3/TMS): δ 179.1, 157.1, 149.1, 148.3, 141.0, 138.6, 135.3, 133.7, 126.8, 121.6, 117.4, 115.0, 110.9, 73.4, 49.4, 41.9, 25.9, 22.6, 22.3, 10.0, 3.1.

reactant | 2-(4-Benzo[1,2,5]oxadiazol-5-yl-3-chloro-5-cyclopropylmethoxy-phenyl)-4-methyl-pentanoic acid cyclopropylmethyl ester | 0.23 mmol, 0.11 g | C1(CC1)COC(C(CC(C)C)C1=CC(=C(C(=C1)OCC1CC1)C=1C=CC=2C(=NON2)C1)Cl)=O | C26H29ClN2O4
reactant | KOH | 1.76 mmol, 0.1 g | [OH-].[K+]
solvent | EtOH H2O | 9 mL | CCO.O
product | 2-(4-benzo[1,2,5]oxadiazol-5-yl-3-chloro-5-cyclopropylmethoxy-phenyl)-4-methyl-pentanoic acid | 0.068 g, 70% | N1=C2C(=NO1)C=C(C=C2)C2=C(C=C(C=C2OCC2CC2)C(C(=O)O)CC(C)C)Cl | C22H23ClN2O4
